US09238639B2
C) Methyl(6-hydroxy-7-methyl-1-benzofuran-3-yl)acetate
To a mixture of (6-hydroxy-7-methyl-1-benzofuran-3-yl)acetic acid (2.61 g) in MeOH (80 mL) was added conc. H2SO4 (0.135 mL). The mixture was stirred at 60° C. for 1 h. The mixture was concentrated. The mixture was neutralized with saturated aqueous NaHCO3 and extracted with EtOAc. The combined organic layer was washed with brine, dried over MgSO4, and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (2.52 g).

reactant | (6-hydroxy-7-methyl-1-benzofuran-3-yl)acetic acid | 2.61 g | OC1=C(C2=C(C(=CO2)CC(=O)O)C=C1)C | C11H10O4
reactant | H2SO4 | 0.135 mL | OS(=O)(=O)O | H2O4S
reactant | MeOH | 80 mL | CO | CH4O
product | Methyl(6-hydroxy-7-methyl-1-benzofuran-3-yl)acetate | 2.52 g | COC(CC1=COC2=C1C=CC(=C2C)O)=O | C12H12O4
